US04356176
The starting material is prepared as follows: The solution of 3.2 g of 2-(o-bromomethylphenyl)-5-chloro-2'-fluorobenzophenone in 40 ml of freshly distilled dimethylsulfoxide is heated for 30 minutes in an oil bath at 178°. After cooling, the solution is partitioned between diethyl ether and water, the ethereal layer washed again with water and saturated aqueous sodium chloride, and evaporated. The residue is taken up in 40 ml of methylene chloride and the solution treated with 2.6 g of pyridinium chlorochromate for 2 hours at 25°. The mixture is diluted with 100 ml of diethyl ether, filtered through a bed of infusorial earth and the filtrate evaporated, to yield the 2-[4-chloro-2-(2-fluorobenzoyl)-phenyl]-benzaldehyde.

reactant | 2-(o-bromomethylphenyl)-5-chloro-2'-fluorobenzophenone | 3.2 g | BrCC1=C(C=CC=C1)C1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C20H13BrClFO
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-[4-chloro-2-(2-fluorobenzoyl)-phenyl]-benzaldehyde | ClC1=CC(=C(C=C1)C1=C(C=O)C=CC=C1)C(C1=C(C=CC=C1)F)=O | C20H12ClFO2
